US05234946
158 mg of methyl 3-amino-6-methylbenzoate was dissolved in 3 ml of acetic acid, and 139 mg of 2,5-dimethoxytetrahydrofuran was added. The mixture was heated under reflux for 1 hour. The reaction mixture was evaporated to dryness under reduced pressure. The residue was purified by silica gel column chromatography Wakogel C-200, 10 g; eluting solvent: hexane/ethyl acetate=10/1) to give 185 mg (yield 87%) of methyl 3-(1-pyrrolyl)-6-methylbenzoate, m.p. 56°-57° C.

reactant | methyl 3-amino-6-methylbenzoate | 158 mg | NC=1C=C(C(=O)OC)C(=CC1)C | C9H11NO2
reactant | 2,5-dimethoxytetrahydrofuran | 139 mg | COC1OC(CC1)OC | C6H12O3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | methyl 3-(1-pyrrolyl)-6-methylbenzoate | 185 mg, yield 87% | N1(C=CC=C1)C=1C=C(C(=O)OC)C(=CC1)C | C13H13NO2
